US06413995B1
A solution of t-butyl [[4-[(E)-2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]-phenyl](trifluoroacetyl)amino]acetate (580 mg) in aqueous methanol was mixed with 74 mg of sodium hydroxide, and then stirred at room temperature for 24 hours and subsequently at 60° C. for 1 hour. After evaporation of methanol, the reaction mixture was mixed with 0.4 ml of 2 mol/l hydrochloric acid, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate. The drying agent was filtered off and the solvent was evaporated to precipitate a solid, which was then washed with methanol/ethyl acetate and dried by heating under reduced pressure to provide [[4-[(E)-2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]phenyl]amino]acetic acid of interest (78 mg, 20%) as a pale yellow solid.

reactant | t-butyl [[4-[(E)-2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]-phenyl](trifluoroacetyl)amino]acetate | 580 mg | N1=CC(=CC=C1)CNC(=O)/C=C/C1=CC=C(C=C1)N(C(C(F)(F)F)=O)CC(=O)OC(C)(C)C | C23H24F3N3O4
reactant | sodium hydroxide | 74 mg | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | [[4-[(E)-2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]phenyl]amino]acetic acid | N1=CC(=CC=C1)CNC(=O)/C=C/C1=CC=C(C=C1)NCC(=O)O | C17H17N3O3
